US05077409
N-[2-[4-(Tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide
A mixture of 1.3 g of N-[3-(bromomethyl)phenyl-N-[2-[4-(tetradecyloxy)phenyl]ethyl]acetamide, 787.04 mg of 2-(trimethylstannyl)thiazole and 83.77 mg of PdCl2 (PO3)2 in 30 ml of tetrahydrofuran is stirred at reflux for 14 hours. The mixture is diluted with ether and filtered through a pad of silica gel. The filtrate is washed with 1N sodium hydroxide, dried and filtered through a pad of alumina. The solvent is evaporated and the residue chromatographed on silica gel using 1:1 ethyl acetate:hexane to give 0.7 g of the desired product as an oil which crystallized to an off-white solid, m.p. 46°-50° C.

reactant | 3-(bromomethyl)phenyl-N-[2-[4-(tetradecyloxy)phenyl]ethyl]acetamide | BrCC=1C=C(C=CC1)CC(=O)NCCC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C31H46BrNO2
reactant | 2-(trimethylstannyl)thiazole | 787.04 mg | C[Sn](C=1SC=CN1)(C)C
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | PdCl2 | 83.77 mg | Cl[Pd]Cl
product | N-[2-[4-(Tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide | 0.7 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CCN(C(C)=O)C1=CC(=CC=C1)CC=1SC=CN1 | C34H48N2O2S
